US07151111B2
A solution of 250 mg (0.74 mmol) of (RS)-4-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride [Example 1f)] in 2 ml of N,N-dimethylformamide is cooled to 0° C. and successively treated with 386 μl (2.2 mmol) of N-ethyl-diisopropylamine and 307 μl (2.2 mmol) of trimethylsilylisocyanate. The mixture is left to warm to RT and stirred for 4 hours. For the working-up, the reaction mixture is evaporated under reduced pressure. The red residue is dissolved in dichloromethane and the organic phase washed with water. After separation of the organic layer and drying over sodium sulfate, it is evaporated to give a red oil. For purification, the crude product is chromatographed on silica gel using a gradient of a 95:5- to 90:10-mixture of dichloromethane and methanol as the eluent. After the chromatography, in addition, the product is triturated in ethyl acetate and sodium hydrogencarbonate at RT. There are obtained 153 mg (60% of theory) of (RS)-{1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-urea as a white solid. MS: m/e=344 (M+H)+.

reactant | (RS)-4-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride | 0.74 mmol, 250 mg | Cl.NC1CC(N(C1)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O
reactant | N-ethyl-diisopropylamine | 2.2 mmol, 386 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | trimethylsilylisocyanate | 2.2 mmol, 307 μl | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (RS)-{1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-urea | 153 mg, 60% | FC=1C=C(COC2=CC=C(C=C2)N2CC(CC2=O)NC(=O)N)C=CC1 | C18H18FN3O3
